US07786132B2
(i) 5-Bromo-4-(3-bromo-5-chlorothiophen-2-yl)-2-chloropyrimidine
nBuLi (1.1 mL, 1.6 M solution in hexane, 1.8 mmol) was added to a stirred solution of 2,3-dibromo-5-chlorothiophene (0.50 g, 1.8 mmol) in 10 mL of THF at −78° C. The solution was stirred for 10 min at −78° C. before 0.35 g (1.8 mmol) of 5-bromo-2-chloropyrimidine was added. The reaction solution was stirred for 30 min at −78° C., then quenched by addition of 1 mL of AcOH in 4 mL of MeOH. Solid 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (0.82 g, 3.6 mmol) was added and the reaction mixture warmed to 0° C. and stirred for 10 min. The reaction mixture was then poured into 50 mL of a 0.5 M solution of sodium ascorbate and diluted with 100 mL of a 1 M aqueous solution of Na2CO3. The aqueous solution was extracted four times with CH2Cl2 and the combined organic extracts dried over MgSO4, filtered and concentrated to give the crude product which was purified by flash chromatography eluting with a linear gradient of 50% EtOAc in hexane to neat EtOAc, then to 20% MeOH in EtOAc to deliver the title compound. MS (M+H)+ 389.

reactant | nBuLi | 1.8 mmol, 1.6 M, 1.1 mL | [Li]CCCC
reactant | 2,3-dibromo-5-chlorothiophene | 1.8 mmol, 0.50 g | BrC=1SC(=CC1Br)Cl | C4HBr2ClS
reactant | 5-bromo-2-chloropyrimidine | 1.8 mmol, 0.35 g | BrC=1C=NC(=NC1)Cl | C4H2BrClN2
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 3.6 mmol, 0.82 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
reactant | sodium ascorbate | O=C1C(O)=C([O-])[C@H](O1)[C@@H](O)CO.[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
product | 5-Bromo-4-(3-bromo-5-chlorothiophen-2-yl)-2-chloropyrimidine | BrC=1C(=NC(=NC1)Cl)C=1SC(=CC1Br)Cl | C8H2Br2Cl2N2S
